US08106236B2
Preparation of (3,5-bis-trifluoromethanesulfonyloxy-phenyl)-acetic acid methyl ester
Trifluoromethanesulphonic anhydride (7.05 g, 25.0 mmol) was added dropwise to a solution of 3,5-dihydroxyphenyl acetic acid methyl ester (1.80 g, 10.0 mmol) and pyridine (4.9 mL, 60.0 mmol) in DCM (20 mL) at 0° C. The temperature was maintained at 0° C. for 15 mins before warming to room temperature and the mixture stirred for 18 hrs. The reaction was diluted with DCM washed with H2O, Na2CO3, dil. HCl, brine, dried (MgSO4) and evaporated under reduced pressure to give a yellow oil. The residue was purified by flash column chromatography (EtOAc:petroleum ether), yield 4.0 g (89%), 1H NMR (CDCl3) δ 7.31 (d, 2H), 7.17 (t, 1H), 3.74 (s, 3H), 7.73 (s, 2H).

reactant | Trifluoromethanesulphonic anhydride | 25.0 mmol, 7.05 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3,5-dihydroxyphenyl acetic acid methyl ester | 10.0 mmol, 1.80 g | COC(CC1=CC(=CC(=C1)O)O)=O | C9H10O4
reactant | pyridine | 60.0 mmol, 4.9 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (3,5-bis-trifluoromethanesulfonyloxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F)=O | C11H8F6O8S2
